US04609650
16β-Ethyl-17β-cyclohexanecarbonyloxyacetoxy-4-estren-3-one
In 20 ml of acetone is dissolved 0.64 g of cyclohexanecarboxylic acid, and 2.5 ml of 2N-NaOH and then 1.0 g of 16β-ethyl-17β-bromoacetoxy-4-estren-3-one and 20 ml of DMF are serially added to the above solution. The mixture is refluxed for 5 hours, and thereafter treated in the same manner as Example 26. The reaction mixture is then chromatographed on a silica gel column. Following passage of 200 ml of n-hexane-diisopropyl ether (6:4), elution is carried out with 600 ml of a 1:1 mixture of the same solvents. The eluate is evaporated under reduced pressure to remove the solvent, giving 0.98 g of the above-identified compound as a light-yellow viscous oil.

reactant | cyclohexanecarboxylic acid | 0.64 g | C1(CCCCC1)C(=O)O | C7H12O2
reactant | NaOH | [OH-].[Na+]
reactant | 16β-ethyl-17β-bromoacetoxy-4-estren-3-one | 1.0 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CBr)=O | C22H31BrO3
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 16β-Ethyl-17β-cyclohexanecarbonyloxyacetoxy-4-estren-3-one | 0.98 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(COC(=O)C2CCCCC2)=O | C29H42O5
